Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
Exertional angina
 
Major Surgical or Invasive Procedure:
___ - Coronary artery bypass graft x3, left internal 
mammary
artery to left anterior descending artery, and saphenous vein 
grafts to obtuse marginal and posterior descending arteries.

 
History of Present Illness:
Mrs. ___ is a ___ year old woman with a history of type I 
diabetes mellitus who recently presented with complaints of 
dyspnea with exertion for the past few months. She also noted 
chest discomfort with exertion. She
denied lower extremity edema or lightheadedness. She 
subsequently underwent a  stress test which was markedly 
abnormal. Cardiac catheterization revealed severe three vessel 
coronary artery disease. Given the above findings, she has been 
referred for surgical revascularization.

 
Past Medical History:
Anxiety
Coronary Artery Disease
Diabetes Mellitus, Insulin Dependent, poorly controlled
Fall History due to hypoglycemia
Gastroparesis
Hyprlipidemia
Hypertension 
Viral encephalitis complicated by seizures, ___ 
 
Social History:
___
Family History:
Denies premature coronary artery disease. Mother died of heart 
disease in her mid ___.

 
Physical Exam:
Admission PE:
BP: 133/64. Heart Rate: 67. Resp. Rate: 12. O2 Saturation%: 99.
Height: 5' 7''     Weight: 148 lbs

General: WDWN female in no acute distress
Skin: Warm [x] Dry [x] intact [x] - multiple bruises noted, burn 
injury of left upper arm
HEENT: NCAT [x] PERRL [x] EOMI [x]
Neck:  Supple [x] Full ROM [x] JVD - none
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [] 
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds 
+ [x]
Extremities: Warm [x], well-perfused [x]  
Edema: None
Varicosities: None 
Neuro: Grossly intact [x]

Pulses:
Femoral      Right: 2     Left: 2
DP           Right: palp  Left: palp
___           Right: palp  Left: palp
Radial       Right: 1+    Left: 1+

Carotid Bruit Right: ?   Left: none

Discharge PE:
BP: 124/73. Heart Rate: 81. Resp. Rate: 18. O2 Saturation%: 
94%on 2L.
Height: 5' 7''     Weight: 157 lbs (148 lbs preop)

General: WDWN, NAD
HEENT: NCAT [x] PERRL [x]  
Neck:  Supple [x] Full ROM [x] JVD - none
Chest: Lungs clear except few bibasilar rales[x]
Heart: RRR [x]  no M/G/R
Abdomen: Soft [x] non-distended [x] non-tender [x]  hypoactive 
bowel sounds+[x]
Extremities: Warm [x], well-perfused [x]  
Left leg EVH incision: healing well
Edema: None
Neuro: Grossly intact [x]
Pulses:
Femoral      Right: 2  Left: 2
DP           Right: 2  Left: 2
___           Right: 2  Left: 2
Radial       Right: 2  Left: 2

 
Pertinent Results:
STUDIES:
Carotid US ___:
Impression:   
Right ICA no stenosis. 
Left ICA no stenosis. 
.
Transesophageal Echocardiogram ___
Pre-bypass:
Normal left ventricular function (EF 60-65%)No regional wall 
motion abnormalityRight ventricular chamber size and free wall 
motion are normal. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. . The mitral valve appears 
structurally normal with trivial mitral regurgitation. There is 
trivial tricuspid regurgitationThere is a trivial/physiologic 
pericardial effusion. The interatrial serptum is aneurysmal, a 
small PFO is present.

Post-bypass:
Infusion Phenylephrine
Biventricular function preserved. Ascending aorta is normal. 
Rest of the exam is unchanged.  
.
PA/LAT CXR ___:
IMPRESSION:    
Lung volumes have improved although there is still moderate left 
lower lobe atelectasis.  Small right pleural effusion is stable. 
 There is no 
pneumothorax or pulmonary edema.  Postoperative widening of the 
cardiomediastinal silhouette has decreased as well.  Lateral 
view shows small anterior mediastinal or pleural collection of 
air and fluid, a common early postoperative finding. 
LABS:
___ 11:24AM BLOOD WBC-13.4*# RBC-2.15*# Hgb-6.4*# 
Hct-19.5*# MCV-91 MCH-29.8 MCHC-32.8 RDW-13.3 RDWSD-43.9 Plt 
___
___ 12:22PM BLOOD WBC-21.0*# RBC-3.90# Hgb-11.3# Hct-34.0# 
MCV-87 MCH-29.0 MCHC-33.2 RDW-13.8 RDWSD-43.7 Plt ___
___ 04:17AM BLOOD WBC-13.5* RBC-3.70* Hgb-10.8* Hct-32.4* 
MCV-88 MCH-29.2 MCHC-33.3 RDW-15.0 RDWSD-47.8* Plt ___
___ 06:55AM BLOOD WBC-12.8* RBC-3.92 Hgb-11.3 Hct-34.5 
MCV-88 MCH-28.8 MCHC-32.8 RDW-14.6 RDWSD-46.6* Plt ___
___ 02:13AM BLOOD ___ PTT-29.2 ___
___ 12:22PM BLOOD UreaN-12 Creat-0.5 Na-140 K-3.5 Cl-110* 
HCO3-21* AnGap-13
___ 03:13AM BLOOD Glucose-158* UreaN-15 Creat-0.6 Na-136 
K-4.7 Cl-104 HCO3-22 AnGap-15
___ 04:17AM BLOOD Glucose-207* UreaN-12 Creat-0.5 Na-137 
K-3.9 Cl-101 HCO3-29 AnGap-11
___ 06:55AM BLOOD Glucose-130* UreaN-14 Creat-0.5 Na-137 
K-3.7 Cl-98 HCO3-32 AnGap-11
___ 06:55AM BLOOD Mg-1.9
 
Brief Hospital Course:
She was admitted on ___ and was taken to the operating 
room. She underwent coronary artery bypass x 3. Please see 
operative note for full details. She tolerated the procedure 
well and was transferred to the CVICU in stable condition for 
recovery and invasive monitoring.   She required neosynephrine 
for hypotension management.  That evening she was weaned from 
sedation, awoke neurologically intact and was extubated without 
complications. She was noted for post op anemia acute blood loss 
was transfused with PRBC and progressively weaned off 
neosynephrine.  
She remained on insulin drip for diabetes management and ___ 
was consulted.  On post operative day two she was started on 
lasix and betablockers.  Her lisinopril and norvasc are being 
held while she is on lasix.  She was transitioned to lantus and 
humalog sliding scale insulin from drip as she was unable to 
manage pump.  Diabetes nurse educator has assisted her in using 
the insulin pens, but she will need further nursing follow up at 
home until she resumes her insulin pump.  On post operative day 
three chest tubes and epicardial wires were removed per 
protocol.  She worked with physical therapy on strength and 
mobility. By the time of discharge on POD 4 the patient was 
ambulating freely, the wound was healing and pain was controlled 
with oral analgesics.  The patient was discharged to home with 
___ services in good condition with appropriate follow up 
instructions.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Senna 25.8 mg PO DAILY 
3. Amlodipine 5 mg PO DAILY 
4. Atorvastatin 80 mg PO QPM 
5. Aspirin 81 mg PO DAILY 
6. biotin unknown  oral Other 
7. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
8. Clobetasol Propionate 0.05% Cream 1 Appl TP BID 
9. Isordil (isosorbide dinitrate) 30  oral DAILY 

 
Discharge Medications:
1. Aspirin EC 81 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
3. Acetaminophen 650 mg PO Q4H:PRN pain/fever 
maximum 4000mg/day please 
4. Atorvastatin 80 mg PO DAILY 
5. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN pain 
RX *hydromorphone 2 mg ___ tablet(s) by mouth every three (3) 
hours Disp #*60 Tablet Refills:*0
6. Glargine 16 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin
7. Metoprolol Tartrate 25 mg PO TID 
RX *metoprolol tartrate 25 mg 1 tablet(s) by mouth three times a 
day Disp #*90 Tablet Refills:*0
8. Potassium Chloride 20 mEq PO DAILY Duration: 10 Days 
RX *potassium chloride [Klor-Con 10] 10 mEq 2 tablet(s) by mouth 
daily Disp #*20 Tablet Refills:*0
9. Furosemide 40 mg PO DAILY Duration: 10 Days 
RX *furosemide 40 mg 1 tablet(s) by mouth daily Disp #*10 Tablet 
Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary Artery Disease s/p revascularization 
Anemia acute blood loss 
Diabetes mellitus type 1

Secondary diagnosis 
Anxiety
Fall History due to hypoglycemia
Gastroparesis
Hyprlipidemia
Hypertension 
Viral encephalitis complicated by seizures, ___ 

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, gait steady
Sternal pain managed with oral medications
Sternal Incision - healing well, no erythema or drainage
Left EVH - healing well, no erythema or drainage 
Edema - none 

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge
 
Followup Instructions:
___